US08754100B2
Synthesis of 2-(4-trifluoromethylphenyl)cyclohexanone
1-Bromo-4-trifluoromethylbenzene (5 mL), cyclohexanone (7.4 mL) and potassium tert-butoxide (8 g) were suspended in tetrahydrofuran (100 mL). Tris(dibenzylieneacetone)dipalladium (1.3 g) and 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (843 mg) were added and the mixture was heated with stirring at 70° C. in a nitrogen atmosphere for 1.5 hours. After leaving to cool, tert-butyl methyl ether was added, followed by filtration through celite. The resulting organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography three times. The resulting solid was washed with heptane to obtain the title compound (2.1 g). The property values of the compound are as follows.

reactant | 1-Bromo-4-trifluoromethylbenzene | 5 mL | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | cyclohexanone | 7.4 mL | C1(CCCCC1)=O | C6H10O
reactant | potassium tert-butoxide | 8 g | CC(C)([O-])C.[K+]
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 843 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | 2-(4-trifluoromethylphenyl)cyclohexanone | 2.1 g | FC(C1=CC=C(C=C1)C1C(CCCC1)=O)(F)F | C13H13F3O
